US08283353B2
4-[trans-4-(2-ethyl-2-hydroxybutoxy)cyclohexyl]-2-methyl-7-propyl-6-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of 4′-({4-[trans-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.25 g), dibutyltin oxide (0.054 g), azidotrimethylsilane (1.5 g) and toluene (15 mL) was stirred at 110° C. for 48 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous potassium fluoride solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by purification by silica gel column chromatography was dissolved in tetrahydrofuran (5 mL). Tetrabutylammonium fluoride (1 M tetrahydrofuran solution, 0.4 mL) was added and the mixture was stirred at 70° C. for 1 hr. Ethyl acetate and 1 N hydrochloric acid were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as colorless crystals (0.087 g, 32%).

reactant | 4′-({4-[trans-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.25 g | OC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)(C)C | C33H39N5O3
reactant | dibutyltin oxide | 0.054 g | C(CCC)[Sn](CCCC)=O
reactant | azidotrimethylsilane | 1.5 g | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | Tetrabutylammonium fluoride | 1 M, 0.4 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[trans-4-(2-ethyl-2-hydroxybutoxy)cyclohexyl]-2-methyl-7-propyl-6-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.087 g, 32% | C(C)C(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC)N=C(N2)C)(CC)O | C35H44N8O3
